US05731299
The hydrogenation of 3-cyano-1-diethoxyphosphinylpropanesulfonic acid lithium salt is carried out using the hydrogenation technique of Freifelder (J. Am. Chem. Soc., 82, 2386 (1960)). The cyano compound (2.62 g; 0.01 mole) is placed in 20 ml of 10% methanolic ammonia. Rhodium on alumina (5%) catalyst (0.5 g) is added, and the mixture is hydrogenated at 40 PSI on a Parr apparatus for several hours (until uptake of hydrogen is complete). The catalyst is filtered off, and the filtrate is evaporated dry. The product is hydrolyzed by dissolving the residue in 25 ml of 6N HCl and refluxing the solution for 12-24 hours. It is then evaporated to dryness under vacuum on a rotary evaporator. Distilled water (25 ml) is added, and the solution is again evaporated dry. The resulting residue is dissolved in a few ml H2O, and ethanol is added to precipitate a solid. This is recrystallized from water/ethanol to yield 4-amino-1-phosphonobutanesulfonic acid.

reactant | 3-cyano-1-diethoxyphosphinylpropanesulfonic acid lithium salt | [Li+].C(#N)CCC(S(=O)(=O)[O-])P(=O)(OCC)OCC
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 20 ml | N | H3N
catalyst | Rhodium on alumina | [Rh] | Rh
product | 4-amino-1-phosphonobutanesulfonic acid | NCCCC(S(=O)(=O)O)P(=O)(O)O | C4H12NO6PS
